US04557871
To 24 g of 2-fluoro-α-methylbenzyl cyanide was added dropwise 40 ml of fuming nitric acid while maintaining the temperature 0°-5° C. After addition, the mixture was gradually warmed up to room temperature, poured into ice-water and extracted with ether. The ether layer was washed with water and dried over anhydrous magnesium sulfate and the solvent was evaporated off. The crude crystals obtained were recrystallized from benzene--n-hexane to afford 25.8 g of 2-fluoro-α-methyl-5-nitrobenzyl cyanide, m.p. 55°-56° C.

reactant | 2-fluoro-α-methylbenzyl cyanide | 24 g | FC1=C(C(C)C#N)C=CC=C1 | C9H8FN
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
product | 2-fluoro-α-methyl-5-nitrobenzyl cyanide | 25.8 g | FC1=C(C(C)C#N)C=C(C=C1)[N+](=O)[O-] | C9H7FN2O2
